US07390797B2
2H-Benzo[6,7]cyclohepta[cd]indazol-5-ylmethanol (6-i(2))
The mixture of (6-iodo-5-oxo-5H-dibenzo[a,d]cyclohepten-1-yl)methyl acetate with its 4-iodo form prepared in Example 6-h was treated with hydrazine monohydrate by the procedure of Example 1-h, and purified and separated by silica gel column chromatography (ethyl acetate:hexane=3:7), to give 320 mg and 1.1 mg of the title compounds as yellow powders, respectively.

reactant | (6-iodo-5-oxo-5H-dibenzo[a,d]cyclohepten-1-yl)methyl acetate | C(C)(=O)OCC1=CC=CC=2C(C3=C(C=CC21)C=CC=C3I)=O | C18H13IO3
reactant | hydrazine monohydrate | O.NN
product | 2H-Benzo[6,7]cyclohepta[cd]indazol-5-ylmethanol | 1.1 mg | N=1NC=2C=CC(=C3C2C1C1=C(C=C3)C=CC=C1)CO | C16H12N2O
